US05910498
Ethyl 5-amino-6,7,8-trifluoro-1-(2,4-difluoro-5-formylaminophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate
To 20 ml of ethanol and 10 ml of acetic acid were added 600 mg of ethyl 5-benzylamino-6,7,8-trifluoro-1-(2,4-difluoro-5-formylaminophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate and 100 mg of 10% palladium on carbon. Under a hydrogen atmosphere, the solution was stirred at room temperature for 2 days. The catalyst was removed by a membrane filter and the filtrate was concentrated in vacua. Diethyl ether was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether to give 420 mg of the title compound.

reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | ethyl 5-benzylamino-6,7,8-trifluoro-1-(2,4-difluoro-5-formylaminophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 600 mg | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=C(C=C(C(=C1)NC=O)F)F)C(=O)OCC)=O | C26H18F5N3O4
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Ethyl 5-amino-6,7,8-trifluoro-1-(2,4-difluoro-5-formylaminophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 420 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=C(C=C(C(=C1)NC=O)F)F)C(=O)OCC)=O | C19H12F5N3O4
